US07504512B2
4-(1,3,2-dioxaborolan-2-yl)benzoic acid
A mixture of 4-(dihydroxyboryl)benzoic acid (30.00 g, 181 mmol) and 1,3-propanediol (15.20 g, 200 mmol) in toluene (750 mL) at 140° C. was stirred for 6 hours while collecting the water removed by azeotrope formation. The mixture was concentrated to provide the desired product.

reactant | 4-(dihydroxyboryl)benzoic acid | 181 mmol, 30.00 g | OB(C1=CC=C(C(=O)O)C=C1)O | C7H7BO4
reactant | 1,3-propanediol | 200 mmol, 15.20 g | C(CCO)O | C3H8O2
solvent | toluene | 750 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(1,3,2-dioxaborolan-2-yl)benzoic acid | O1B(OCC1)C1=CC=C(C(=O)O)C=C1 | C9H9BO4
